USH0002007H1
Under a nitrogen atmosphere, 1.7 grams ( 0.044 mole) of sodium borohydride pellets was added to 100 ml of stirred ethanol. To this was added 10.0 grams (0.040 moles) of 2,4′-dichlorobenzophenone in one portion. Upon completion of the addition the reaction mixture was stirred at ambient temperature for about 18 hours. After this time the ethanol was removed under reduced pressure, and the resulting residue was taken up in 250 mL of aqueous 5% sodium hydroxide solution. The solution was extracted with two 100 mL portions of diethyl ether. The combined ether extracts were washed with aqueous saturated sodium chloride solution. The organic layer was filtered and the filtrate concentrated under reduced pressure, yielding 9.5 grams of (2-chlorophenyl)(4-chlorophenyl)methanol. The NMR spectrum was consistent with the proposed structure.

reactant | sodium borohydride | 0.044 mole, 1.7 grams | [BH4-].[Na+]
reactant | 2,4′-dichlorobenzophenone | 0.040 moles, 10.0 grams | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1 | C13H8Cl2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (2-chlorophenyl)(4-chlorophenyl)methanol | 9.5 grams | ClC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)Cl | C13H10Cl2O
